US08710046B2
To a −78° C. cooled suspension of (methoxymethyl)triphenylphosphonium chloride (119 g, 347 mmol) in tetrahydrofuran (1000 mL) was carefully added a solution of lithium bis(trimethylsilyl)amide (1.0M in THF, 347 mL, 347 mmol). The resulting dark red mixture was stirred at −40° C. for 30 min. To this was added a solution of methyl 3-formyl-1-(4-methoxybenzyl)-1H-indazole-4-carboxylate (45 g, 139 mmol) in tetrahydrofuran slowly and the mixture was stirred for 30 min. The reaction was quenched with sat. aqueous sodium chloride (500 mL) and extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with brine (4×300 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude oil was purified by column chromatography (silica gel, 5 to 30% ethyl acetate in hexanes) to afford methyl 1-(4-methoxybenzyl)-3-(2-methoxyvinyl)-1H-indazole-4-carboxylate (40.3 g, 82%) as a yellow oil. A mixture of tetrahydrofuran (950 mL) and 6N hydrochloric acid (30 mL) was added to methyl 1-(4-methoxybenzyl)-3-(2-methoxyvinyl)-1H-indazole-4-carboxylate (40.3 g, 114.5 mmol) and the resulting biphasic mixture was heated to reflux for 2.5 h. The mixture was cooled to room temperature and diluted with ethyl acetate (1500 mL). The organic layer was separated and washed with brine (4×500 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to afford methyl 1-(4-methoxybenzyl)-3-(2-oxoethyl)-1H-indazole-4-carboxylate (30 g, 77%) as a yellow solid: 1H NMR δ (300 MHz, DMSO-d3) 9.78 (s, 1H), 8.04 (d, J=8.0 Hz, 1H), 7.49 (dd, J=7.2, 0.6 Hz, 1H), 7.48 (dd, J=8.7, 7.5 Hz, 1H), 7.22-7.19 (m, 2H), 6.88-6.85 (m, 2H), 5.61 (s, 2H), 4.26 (s, 2H), 3.84 (s, 3H), 3.69 (s, 3H); MS (ESI+) m/z 339 (M+H).

reactant | tetrahydrofuran | 950 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 6N, 30 mL | Cl | ClH
reactant | methyl 1-(4-methoxybenzyl)-3-(2-methoxyvinyl)-1H-indazole-4-carboxylate | 114.5 mmol, 40.3 g | COC1=CC=C(CN2N=C(C=3C(=CC=CC23)C(=O)OC)C=COC)C=C1 | C20H20N2O4
solvent | ethyl acetate | 1500 mL | C(C)(=O)OCC | C4H8O2
product | methyl 1-(4-methoxybenzyl)-3-(2-oxoethyl)-1H-indazole-4-carboxylate | 30 g, 77% | COC1=CC=C(CN2N=C(C=3C(=CC=CC23)C(=O)OC)CC=O)C=C1 | C19H18N2O4
